.title ldo_folded_cascode
* Test ldo_folded_cascode ACDC

*.OPTIONS RELTOL=.0001
***************************************
* Step 1: Replace circuit netlist here.
*************************************** 
.subckt ldo_folded_cascode Vdd vinp Vb2 vinn Vb1 Vss Vreg
XM10 Vreg vout1 Vdd Vdd sky130_fd_pr__pfet_01v8 L=L_M10 W=W_M10 m=M_M10
XM1 net2 vinp net4 Vss sky130_fd_pr__nfet_01v8 L=L_M1 W=W_M1 m=M_M1
XM2 net3 vinn net4 Vss sky130_fd_pr__nfet_01v8 L=L_M2 W=W_M2 m=M_M2
XM4 net3 net1 Vdd Vdd sky130_fd_pr__pfet_01v8 L=L_M4 W=W_M4 m=M_M4
XM3 net2 net1 Vdd Vdd sky130_fd_pr__pfet_01v8 L=L_M3 W=W_M3 m=M_M3
XM9 net4 Vb1 Vss Vss sky130_fd_pr__nfet_01v8 L=L_M9 W=W_M9 m=M_M9
XM6 vout1 Vb2 net3 Vdd sky130_fd_pr__pfet_01v8 L=L_M6 W=W_M6 m=M_M6
XM5 net1 Vb2 net2 Vdd sky130_fd_pr__pfet_01v8 L=L_M5 W=W_M5 m=M_M5
XM7 net1 Vb1 Vss Vss sky130_fd_pr__nfet_01v8 L=L_M7 W=W_M7 m=M_M7
XM8 vout1 Vb1 Vss Vss sky130_fd_pr__nfet_01v8 L=L_M8 W=W_M8 m=M_M8
XCfb net2 Vreg sky130_fd_pr__cap_mim_m3_1 W=10 L=10 MF=M_Cfb m=M_Cfb
XRfb net2 vout1 Vss sky130_fd_pr__res_high_po_0p35 L=3 mult=M_Rfb m=M_Rfb
.ends ldo_folded_cascode 

.param mc_mm_switch=0
.param mc_pr_switch=0
.lib "../../sky130_pdk/libs.tech/ngspice/sky130.lib.spice" tt
* (removed r+c include)
* (removed r+c include)
* (removed specialized_cells include)

***************************************
* Step 2: Replace circuit param.  here.
*************************************** 
.param W_M1=20 L_M1=1 M_M1=1
.param W_M2=W_M1 L_M2=L_M1 M_M2=M_M1
.param W_M3=30 L_M3=0.5 M_M3=1
.param W_M4=W_M3 L_M4=L_M3 M_M4=M_M3
.param W_M5=10 L_M5=0.5 M_M5=1
.param W_M6=W_M5 L_M6=L_M5 M_M6=M_M5
.param W_M7=20 L_M7=2 M_M7=1
.param W_M8=W_M7 L_M8=L_M7 M_M8=M_M7
.param W_M9=30 L_M9=0.5 M_M9=1
.param W_M10=10 L_M10=0.5 M_M10=250
.param Vb1=1
.param Vb2=0.025
.param M_Rfb=1
.param M_Cfb=10
.param M_CL=240


.PARAM supply_voltage = 2
.PARAM Vref = 1.8
.PARAM PARAM_ILOAD =10m

V1 vdd 0 'supply_voltage'
V2 vss 0 0 

Vindc vref_in 0 'Vref'
Vin signal_in 0 dc 'Vref' ac 1 sin('Vref' 100m 500)

* Circuit List:
* ldo_folded_cascode

* XLDO gnda vdda vinn vout vfb vinp Ib
*        |  |     |     |   |    |   |
*        |  |     |     |   |    |   bias current
*        |  |     |     |   |    Non-inverting input 
*        |  |     |     |   Feedback voltage 
*        |  |     |     |   
*        |  |     |     Output
*        |  |     Inverting Input
*        |  Positive Supply
*         Negative Supply 

***************************************
* Step 3: Replace circuit name below.
* e.g. Basic_LDO -> DFCFC_LDO
*************************************** 
*    ADM TB   
x1 vdd vinp1 Vb2_1 vref_in Vb1_1 vss Vreg1 ldo_folded_cascode
Vb1 Vb1_1 0 'Vb1'
Vb2 Vb2_1 0 'Vb2'
XCL Vreg1 0 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=M_CL m=M_CL
Iload1 Vreg1 0 'PARAM_ILOAD' 
Lfb vinp1 Vreg1 1T
Cfb vinp1 signal_in 1T

* PSRR   TB   
VVDDApsrr vddpsrr 0 'supply_voltage'  AC=1
x2 vddpsrr Vreg2 Vb2_2 vref_in Vb1_2 vss Vreg2 ldo_folded_cascode
Vb3 Vb1_2 0 'Vb1'
Vb4 Vb2_2 0 'Vb2'
XCL2 Vreg2 0 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=M_CL m=M_CL
Iload2 Vreg2 0 'PARAM_ILOAD'

* DC ALL  TB  
VVDDdc VDDdc 0 'supply_voltage' 
x3 VDDdc Vreg3 Vb2_3 vref_in Vb1_3 vss Vreg3 ldo_folded_cascode
Vb5 Vb1_3 0 'Vb1'
Vb6 Vb2_3 0 'Vb2'
XCL3 Vreg3 0 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=M_CL m=M_CL
Iload3 Vreg3 0 'PARAM_ILOAD'

.nodeset v(Vreg1)=1.8
.nodeset v(Vreg2)=1.8
.nodeset v(Vreg3)=1.8

.control
* save all voltage and current
save all
.options savecurrents 
set filetype=ascii
set units=degrees

* DC sweep at maxload
alter Iload3 dc=10m
dc VVDDdc 1 3 0.01
plot  v(Vreg3)
wrdata ldo_folded_cascode_Vdrop_maxload v(Vreg3)

* DC sweep at minload
alter Iload3 dc=10u
dc VVDDdc 1 3 0.01
plot  v(Vreg3)
wrdata ldo_folded_cascode_Vdrop_minload v(Vreg3)

* LNR at maxload
alter Iload3 dc=10m
dc VVDDdc 1.8 2.2 0.01
meas dc maxval1 MAX V(Vreg3) from=1.8 to=2.2
meas dc minval1 MIN V(Vreg3) from=1.8 to=2.2
meas dc avgval1 AVG V(Vreg3) from=1.8 to=2.2
meas dc ppavl1  PP V(Vreg3) from=1.8 to=2.2
let LNR1 = ppavl1/avgval1/0.4
print LNR1
plot v(Vreg3)
wrdata ldo_folded_cascode_LNR_maxload LNR1

* LNR at minload
alter Iload3 dc=10u
dc VVDDdc 1.8 2.2 0.01
meas dc maxval2 MAX V(Vreg3) from=1.8 to=2.2
meas dc minval2 MIN V(Vreg3) from=1.8 to=2.2
meas dc avgval2 AVG V(Vreg3) from=1.8 to=2.2
meas dc ppavl2  PP V(Vreg3) from=1.8 to=2.2
let LNR2 = ppavl2/avgval2/0.4
print LNR2
plot v(Vreg3)
wrdata ldo_folded_cascode_LNR_minload LNR2

dc Iload3 10u 10.001m 1u
* LR meas   
meas dc maxval MAX V(Vreg3) from=10u to=10m
meas dc minval MIN V(Vreg3) from=10u to=10m
meas dc avgval AVG V(Vreg3) from=10u to=10m
meas dc ppavl  PP V(Vreg3) from=10u to=10m
let LR = ppavl/avgval/9.99m
print LR

* Power meas at maxload
meas dc Ivdd1 FIND I(VVDDDC) AT=10m
let Power1 = -1*Ivdd1*2
print Power1

* Power meas at minload
meas dc Ivdd2 FIND I(VVDDDC) AT=10u
let Power2 = -1*Ivdd2*2
print Power2

*   Vos.meas at maxload
meas dc vout_x FIND V(Vreg3) AT=10m
let vos1 = vout_x-4*1.8
print vos1

*   Vos.meas at minload
meas dc vout_y FIND V(Vreg3) AT=10u
let vos2 = vout_y-4*1.8
print vos2
plot v(Vreg3)
wrdata ldo_folded_cascode_LR_Power_vos LR Power1 Power2 vos1 vos2 

* Loop test at maxload
alter Iload1 dc=10m
ac dec 10 0.1 1G
meas ac DCPSRp1 find vdb(Vreg2) at = 0.1
meas ac dcgain1 find vdb(Vreg1) at = 0.1
meas ac gain_bandwidth_product1 when vdb(Vreg1)=0
meas ac phase_margin1 find vp(Vreg1) when vdb(Vreg1)=0
plot vdb(Vreg1) vdb(Vreg2) vp(Vreg1)
wrdata ldo_folded_cascode_PSRR_dcgain_maxload DCPSRp1 dcgain1
wrdata ldo_folded_cascode_GBW_PM_maxload gain_bandwidth_product1 phase_margin1

* Loop test at minload
alter Iload1 dc=10u
ac dec 10 0.1 1G
meas ac DCPSRp2 find vdb(Vreg2) at = 0.1
meas ac dcgain2 find vdb(Vreg1) at = 0.1
meas ac gain_bandwidth_product2 when vdb(Vreg1)=0
meas ac phase_margin2 find vp(Vreg1) when vdb(Vreg1)=0
plot vdb(Vreg1) vdb(Vreg2) vp(Vreg1)
wrdata ldo_folded_cascode_PSRR_dcgain_minload DCPSRp2 dcgain2
wrdata ldo_folded_cascode_GBW_PM_minload gain_bandwidth_product2 phase_margin2

* OP
op

.endc
.end